US04332820
In a 250 ml single-neck flask equipped with a magnetic stirrer and a reflux condenser fitted with a nitrogen bubbler were placed 9.73 g (0.0533 moles) of 2-chloro-5-nitrobenzonitrile, 7.83 g (0.0549 moles) of 4-chloro-2-methylphenol, 7.56 g (0.0549 moles) of anhydrous K2CO3, and 75 ml of acetonitrile. The mixture was heated to reflux and held there for 3 hrs. The reaction mixture was then cooled to room temperature and diluted with 150 ml of water. The product separated as a solid. The solid was filtered off, washed thoroughly with water, and air-dried. The air-dried solid was recrystallized from 400 ml of absolute ethanol and a small amount of acetone to give 9.60 g (62% yield) of purified 2-(4-chloro-2-methylphenoxy)-5-nitrobenzonitrile, mp 144.5°-145.5° C.

reactant | 2-chloro-5-nitrobenzonitrile | 0.0533 moles, 9.73 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 4-chloro-2-methylphenol | 0.0549 moles, 7.83 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | K2CO3 | 0.0549 moles, 7.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 2-(4-chloro-2-methylphenoxy)-5-nitrobenzonitrile | 9.60 g, 62% yield | ClC1=CC(=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C=C1)C | C14H9ClN2O3
